US07825160B2
(3-Benzyloxy-5-bromophenyl)-acetic acid ethyl ester (0.250 g, 0.72 mmol), benzene boronic acid (0.10 g, 0.86 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.04 g, 0.04 mmol) were suspended in a mixture of K2CO3 solution (0.72 ml, 1.44 mmol, 2M aq) and DME (2 ml). This reaction mixture was irradiated in a CEM microwave at 120° C. for 30 min. The reaction mixture was diluted with water and extracted with Et2O (×3). The combined organic extracts were washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (EtOAc:petroleum ether) to give (5-benzyloxy-biphenyl-3-yl)-acetic acid ethyl ester (0.12 g, 0.35 mmol) as a colourless gum in 48% yield. 1H NMR (CDCl3) δ 7.59-7.54 (m, 2H), 7.48-7.30 (m, 8H), 7.13-7.11 (m, 2H), 6.94-6.91 (m, 1H), 5.12 (s, 2H), 4.16 (q, 2H), 3.64 (s, 2H), 1.27 (t, 3H).

reactant | (3-Benzyloxy-5-bromophenyl)-acetic acid ethyl ester | 0.72 mmol, 0.250 g | C(C)OC(CC1=CC(=CC(=C1)Br)OCC1=CC=CC=C1)=O | C17H17BrO3
reactant | benzene boronic acid | 0.86 mmol, 0.10 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 1.44 mmol, 2M, 0.72 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 2 ml | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 mmol, 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-benzyloxy-biphenyl-3-yl)-acetic acid ethyl ester | 0.35 mmol, 0.12 g, 48% yield | C(C)OC(CC=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C23H22O3
